US09388189B2
(S)—N-(3-Hydroxy-5-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl)methanesulfonamide
(S)—N-(3-Hydroxy-5-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl)methanesulfonamide (40 mg, 0.05 mmol) was treated with trifluoroacetic acid (920 μl, 11.94 mmol) and a solution of ammonia (7N in methanol, 920 μl, 6.44 mmol) according to the method described in Example 27. The residue was purified using SP1® Purification System (0% to 6% dichloromethane-2-propanol) to obtain 24 mg (78% yield) of the title compound.

reactant | (S)—N-(3-Hydroxy-5-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl)methanesulfonamide | 0.05 mmol, 40 mg | OC=1C=C(C=C(C1)C1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C)NS(=O)(=O)C | C34H40N8O5SSi
reactant | trifluoroacetic acid | 11.94 mmol, 920 μl | FC(C(=O)O)(F)F | C2HF3O2
reactant | ammonia | 6.44 mmol, 7N, 920 μl | N | H3N
product | (S)—N-(3-Hydroxy-5-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl)methanesulfonamide | 24 mg, 78% yield | OC=1C=C(C=C(C1)C1=CNC=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)NS(=O)(=O)C | C28H26N8O4S
